US07501425B1
3-Allyl-7-(imidazol-1-yl)-1-isopropyl-1H-pyrimido [4,5-d]pyrimidine-2,4-dione
To a 0° C. suspension of 563 mg (14.1 mmol) of sodium hydride (60% disp.) is added 1.5 g (5.63 mmol) of N-allyl-4-(isopropylamino)-2-(methylthio)pyrimidine-5-carboxamide, and the reaction mixture is stirred for 15 minutes. To the reaction mixture is added in small portions 2.7 g (16.9 mmol) of 1,1′-carbonyldiimidazole. The reaction mixture is stirred overnight at room temperature, diluted with ethyl acetate, and washed with a saturated solution of sodium bicarbonate, water, and brine. The combined aqueous phase is washed with ethyl acetate. The combined organic phase is dried over magnesium sulfate, filtered, and concentrated. The residue is chromatographed on silica eluting with 4:6 ethyl acetate/hexane. The single component fractions are collected and crystallized from dichloromethane/hexane to give 457 mg (26%) of the title compound: mp 158-160° C.

reactant | sodium hydride | 14.1 mmol, 563 mg | [H-].[Na+]
reactant | N-allyl-4-(isopropylamino)-2-(methylthio)pyrimidine-5-carboxamide | 5.63 mmol, 1.5 g | C(C=C)NC(=O)C=1C(=NC(=NC1)SC)NC(C)C | C12H18N4OS
reactant | 1,1′-carbonyldiimidazole | 16.9 mmol, 2.7 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-Allyl-7-(imidazol-1-yl)-1-isopropyl-1H-pyrimido [4,5-d]pyrimidine-2,4-dione | 457 mg, 26% | C(C=C)N1C(N(C2=NC(=NC=C2C1=O)N1C=NC=C1)C(C)C)=O | C15H16N6O2
